US07087579B2
To a suspension of isopropyltriphenylphosphonium iodide (9.5 g) in tetrahydrofuran (90 mL) was added n-butyllithium (1.5 mol/L hexane solution, 15 mL) at 0° C., and the mixture was stirred for 15 minutes. To the reaction mixture was added a solution of methyl terephthalaldehydate (3.3 g) in tetrahydrofuran (10 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on aminopropyl silica gel (eluent: hexane/ethyl acetate=3/1) and then by column chromatography on silica gel (eluent: dichloromethane/ethyl acetate=10/1) to give methyl 4-(2-methylprop-1-en-1-yl)benzoate (3.4 g). To a suspension of lithium aluminum hydride (0.68 g) in diethyl ether (120 mL) was added a solution of methyl 4-(2-methylprop-1-en-1-yl)benzoate (3.4 g) in diethyl ether (30 mL) at 0° C., and the mixture was heated under reflux for 50 minutes. After the reaction mixture was cooled to 0° C., water (0.69 mL), 15% aqueous sodium hydroxide solution (0.69 mL) and water (2 mL) were added, and the mixture was stirred at room temperature for 30 minutes. Insoluble materials were removed by filtrate, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=4/1-2/1) to give 4-(2-methylprop-1-en-1-yl)benzyl alcohol (2.8 g).

reactant | isopropyltriphenylphosphonium iodide | 9.5 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 1.5 mol/L, 15 mL | C(CCC)[Li]
reactant | methyl terephthalaldehydate | 3.3 g | COC(=O)C1=CC=C(C=C1)C=O | C9H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 4-(2-methylprop-1-en-1-yl)benzoate | 3.4 g | CC(=CC1=CC=C(C(=O)OC)C=C1)C | C12H14O2
